US07678801B2
3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N,N,4-trimethylbenzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (40 mg, 0.074 mmol) in dichloromethane (2 mL) were added HBTU (30 mg, 0.079 mmol) and dimethylamine (0.185 mL, 0.37 mmol, 2.0M soln in THF). The mixture was stirred at rt overnight. Solvent was removed by rotovap. Separation by chromatography (90% methylene chloride/7% MeOH/3% ammonia) afforded the title compound (42 mg, 99%). LC-MS m/z 549 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.074 mmol, 40 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2C)CC | C28H29F2N5O3
reactant | HBTU | 0.079 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N,N,4-trimethylbenzamide | 42 mg, 99% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)N(C)C)C=CC2C)CC | C30H34F2N6O2
